US07790727B2
4-{5-[(3-difluoromethoxy-benzenesulfonyl)-methyl-amino]-2-methoxy-phenyl}-piperazine-1-carboxylic Acid tert-butyl Ester
To a suspension of 0.015 g (0.374 mmol) of sodium hydride (60% in paraffin oil) in 2 mL of dimethylformamide 0.16 g of 4-[5-(3-Difluoromethoxy-benzenesulfonylamino)-2-methoxy-phenyl]-piperazine-1-carboxylic acid tert-butyl ester (0.311 mmol) from preparation example 1 were added at room temperature. After stirring for 30 minutes at 60° C., a solution of 0.053 g methyliodide (0.374 mmol) in 1 mL dimethylformamide were added dropwise. Stirring was continued for 16 h at room temperature before the solvent was evaporated. Then, 15 mL of water were added, and the aqueous phase was extracted twice with 10 mL of ethyl acetate each. The organic phases were combined, dried over magnesium sulfate, filtered, and the solvent was evaporated under reduced pressure to yield 0.156 g of crude title product which was further purified via silica gel chromatography.

reactant | sodium hydride | 0.374 mmol, 0.015 g | [H-].[Na+]
reactant | 4-[5-(3-Difluoromethoxy-benzenesulfonylamino)-2-methoxy-phenyl]-piperazine-1-carboxylic acid tert-butyl ester | 0.311 mmol | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC(=C1)NS(=O)(=O)C1=CC(=CC=C1)OC(F)F)OC | C23H29F2N3O6S
reactant | methyliodide | 0.374 mmol, 0.053 g | CI | CH3I
solvent | dimethylformamide | 2 mL, 0.16 g | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 4-{5-[(3-difluoromethoxy-benzenesulfonyl)-methyl-amino]-2-methoxy-phenyl}-piperazine-1-carboxylic Acid tert-butyl Ester | 0.156 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC(=C1)N(C)S(=O)(=O)C1=CC(=CC=C1)OC(F)F)OC | C24H31F2N3O6S
